US05013863
The solution of 2.4 g of ethyl 3-phthalimido-2-trimethylsilyloxy-propyl(n-butyl)phosphinate in 50 ml of concentrated aqueous hydrochloric acid is heated to reflux for 20 hours. After this time the suspension is cooled to room temperature and filtered. The filtrate is evaporated to dryness and the resulting semi-solid is co-evaporated with water (5×50 ml) and absolute ethanol (5×100 ml) and the white solid dried in high vacuum overnight. Crystallisation from absolute ethanol affords 3-amino-2-hydroxy-propyl(n-butyl)phosphinic acid hydrochloride, m.p. 158-160°.

reactant | ethyl 3-phthalimido-2-trimethylsilyloxy-propyl(n-butyl)phosphinate | 2.4 g | C1(C=2C(C(N1CC(CP(OCC)(=O)CCCC)O[Si](C)(C)C)=O)=CC=CC2)=O | C20H32NO5PSi
reactant | hydrochloric acid | 50 ml | Cl | ClH
product | 3-amino-2-hydroxy-propyl(n-butyl)phosphinic acid hydrochloride | Cl.NCC(CP(O)(=O)CCCC)O | InChI=1S/C7H18NO3P.ClH/c1-2-3-4-12(10,11)6-7(9)5-8;/h7,9H,2-6,8H2,1H3,(H,10,11);1H
